US09102614B2
2-tert-butoxy-2-(1-(4-chlorophenyl)-7-(3-hydroxy-3-methylbut-1-ynyl)-3-methylnaphthalen-2-yl)acetic acid (69)
Preparation of ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-7-(3-hydroxy-3-methylbut-1-ynyl)-3-methylnaphthalen-2-yl)acetate: To a solution of ethyl 2-(7-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate (30 mg, 0.061 mmol) in THF (1 mL) was added 2-methylbut-3-yn-2-ol (15 mg, 0.18 mmol), CuI (1 mg, 0.006 mmol), Pd(PPh3)4 (3 mg, 0.003 mmol), and Et3N (50 μL, 0.36 mmol). The reaction mixture was stirred at 65° C. for 1 h. A saturated solution of NH4Cl was added. The layers were separated, and the organic layer was dried, filtered, and concentrated in vacuo. The crude material was purified by column chromatography (EtOAc/hexanes) to give 22 mg of the titled compound. 1H-NMR: 400 MHz, (CD3OD) δ: 7.73 (d, J=9 Hz, 1H), 7.67 (s, 1H), 7.57 (m, 2H), 7.48 (m, 1H), 7.40 (d, J=9 Hz, 1H), 7.29 (d, J=9 Hz, 1H), 7.24 (s, 1H), 5.15 (s, 1H), 4.16 (m, 2H), 2.57 (s, 3H), 1.51 (s, 6H), 1.20 (t, J=7 Hz, 3H), 0.99 (s, 9H).

reactant | ethyl 2-tert-butoxy-2-(1-(4-chlorophenyl)-7-(3-hydroxy-3-methylbut-1-ynyl)-3-methylnaphthalen-2-yl)acetate | C(C)(C)(C)OC(C(=O)OCC)C1=C(C2=CC(=CC=C2C=C1C)C#CC(C)(C)O)C1=CC=C(C=C1)Cl | C30H33ClO4
reactant | ethyl 2-(7-bromo-1-(4-chlorophenyl)-3-methylnaphthalen-2-yl)-2-tert-butoxyacetate | 0.061 mmol, 30 mg | BrC1=CC=C2C=C(C(=C(C2=C1)C1=CC=C(C=C1)Cl)C(C(=O)OCC)OC(C)(C)C)C | C25H26BrClO3
reactant | 2-methylbut-3-yn-2-ol | 0.18 mmol, 15 mg | CC(C)(C#C)O | C5H8O
reactant | Et3N | 0.36 mmol, 50 μL | CCN(CC)CC | C6H15N
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | CuI | 0.006 mmol, 1 mg | [Cu]I
catalyst | Pd(PPh3)4 | 0.003 mmol, 3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-tert-butoxy-2-(1-(4-chlorophenyl)-7-(3-hydroxy-3-methylbut-1-ynyl)-3-methylnaphthalen-2-yl)acetic acid | 22 mg | C(C)(C)(C)OC(C(=O)O)C1=C(C2=CC(=CC=C2C=C1C)C#CC(C)(C)O)C1=CC=C(C=C1)Cl | C28H29ClO4
